US07112589B2
A solution of 0.036 g (0.096 mmol) of N-[2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidin-5-ylmethyl]-2-(4-methoxy-phenyl)acetamide, 0.013 g (0.192 mmol) of KCN and 0.011 g (0.096 mmol) of 1.4-diazabicyclo[2.2.2]octan in 1 ml of DMSO/H2O (85:15) is stirred for 45 minutes at 60° C. The reaction mixture is cooled to r.t. and subjected to preparative HPLC. N-[2-cyano-4-(2,2-dimethyl-propylamino)-pyrimidin-5-ylmethyl]-2-(4-methoxy-phenyl)-acetamide is obtained as a white solid.

reactant | N-[2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidin-5-ylmethyl]-2-(4-methoxy-phenyl)acetamide | 0.096 mmol, 0.036 g | ClC1=NC=C(C(=N1)NCC(C)(C)C)CNC(CC1=CC=C(C=C1)OC)=O | C19H25ClN4O2
reactant | KCN | 0.192 mmol, 0.013 g | [C-]#N.[K+]
reactant | 1.4-diazabicyclo[2.2.2]octan | 0.096 mmol, 0.011 g | N12CCN(CC1)CC2 | C6H12N2
solvent | DMSO H2O | 1 ml | CS(=O)C.O
product | N-[2-cyano-4-(2,2-dimethyl-propylamino)-pyrimidin-5-ylmethyl]-2-(4-methoxy-phenyl)-acetamide | C(#N)C1=NC=C(C(=N1)NCC(C)(C)C)CNC(CC1=CC=C(C=C1)OC)=O | C20H25N5O2
